### PR TITLE
Log zeta bounds on vertical lines

### PR DESCRIPTION
**Pull request by ajirving**
Tidies the various dlog_riemannZeta_bdd results.  we can get everything we need from dlog_riemannZeta_bdd_on_vertical_lines_generalized who's proof I've significantly shortened.

### CODE REVIEW

File: PrimeNumberTheoremAnd/MediumPNT.lean [hunk 1]
```diff
@@ -1211,15 +1140,12 @@ theorem summable_complex_then_summable_real_part (f : ℕ → ℂ) :
...
 theorem dlog_riemannZeta_bdd_on_vertical_lines_generalized :
   ∀(σ₀ σ₁ : ℝ), ∀(t : ℝ), 1 < σ₀ → σ₀ ≤ σ₁ →
     ‖(- ζ' (σ₁ + t * I) / ζ (σ₁ + t * I))‖ ≤ ‖ζ' σ₀ / ζ σ₀‖ := by
-  intro σ₀
-  intro σ₁
-  intro t
-  intro σ₀_gt_one
-  intro σ₀_lt_σ₁
-
+  intro σ₀ σ₁ t σ₀_gt_one σ₀_lt_σ₁
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/MediumPNT.lean]: Instead of starting with an `intro`, let's move those variables into the theorem, before the `:`?

Comment (ajirving) [reply PrimeNumberTheoremAnd/MediumPNT.lean]: Good idea, done.

**Review by AlexKontorovich — APPROVED** [review]
Great thanks!
